Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
GERD
 
Major Surgical or Invasive Procedure:
Laparoscopic ___ Fundoplication

 
History of Present Illness:
___ yo M with a H/O coughing and sinus congestion
over many years.  He was seen by an ENT MD ___ year ago and had a
fiberoptic exam done which showed severe inflammation of the
esophagus. That prompted an EGD without biopsy which confirmed
severe inflammation. He was placed on a variety of PPI's all of
which caused some diarrhea. Another EGD with biopsy was done 3
weeks ago and he was told that he has a precancerous condition.
He is not aware of the term barretts esophagus and we do not 
have
any path from that EGD.
He was referred to Dr. ___ to discuss potential surgery.  He 
has
never had any manomatry or Ph studies nor has he had a barium
swallow.

Currently he denies any heartburn, acid reflux, change in 
weight,
dysphagia. His only complaints are that of a cough and sinus
congestion.  He was recently given a Zpak but does not notice 
any
improvement. He is a current smoker.
 
Past Medical History:
PAST MEDICAL HISTORY:
1. IBS
2. Chronic cough
3. OSA ..wears CPAP at hs
4. Hypercholesterolemia

PSH
1. S/P APPY
 
Social History:
___
Family History:
Mother A&W
Father  ___ cancer
 
Physical Exam:
BP: 132/67. Heart Rate: 68. Temperature: 98.1. Resp. Rate: 16. 
O2 Saturation%: 98.
GENERAL        
[x] WN/WD  [x] NAD  [x] AAO  [ ] abnormal findings:

HEENT          
[x] Trachea midline [x] Thyroid nl size/contour
[ ] Abnormal findings:

RESPIRATORY    
[x] CTA/P     [x] Excursion normal    
[ ] Abnormal findings:

CARDIOVASCULAR 
[x] RRR    [x] No m/r/g    
[ ] Abnormal findings:

GI             
[x] Soft    [x] NT   [x] ND  [x] No mass
[ ] Abnormal findings:

GU             [x] Deferred  
[ ] Nl genitalia    [ ] Nl pelvic/testicular exam    [ ] Nl DRE
[ ] Abnormal findings:

LYMPH NODES   
[x] Cervical nl      [x] Supraclavicular nl 
[ ] Abnormal findings:

SKIN           
[x] No rashes/lesions/ulcers
[x] No induration/nodules/tightening     [ ] Abnormal findings:

PSYCHIATRIC    
[x] Nl judgment/insight    [x] Nl memory   [x] Nl mood/affect
[ ] Abnormal findings:
 
Pertinent Results:
___ 05:10AM BLOOD WBC-10.9*# RBC-4.85 Hgb-13.9 Hct-41.1 
MCV-85 MCH-28.7 MCHC-33.8 RDW-12.9 RDWSD-39.6 Plt ___
___ 05:10AM BLOOD Glucose-94 UreaN-13 Creat-1.0 Na-137 
K-4.0 Cl-101 HCO3-25 AnGap-15
___ 05:10AM BLOOD Calcium-8.5 Phos-4.0 Mg-1.9
 
Brief Hospital Course:
On ___ the patient presented to ___ for laparoscopic 
Nissen fundoplication to treat his gastro-esophageal reflux 
disease.  The procedure went as planned without complication, 
and after a brief stay in the PACU, the patient was admitted to 
the floor.  When admitted to the floor (POD#0) the patient was 
kept NPO with IVF, had a foley catheter in place, and had his 
pain controlled with IV medication. At midnight, the patients 
foley catheter was removed, and he was due to void by 8 am on 
POD#1.  Per nursing report, he slept overnight.

On POD#1 the patient failed to void by 0800 hours as scheduled, 
but a bladder scan revealed only approx 300cc urine in his 
bladder and he denied fullness or discomfort, so he was given 
more time to void.  He successfully had a large void around 1000 
hours, just prior to going for his upper GI study.  His upper GI 
study was normal, and his diet was advanced to clears.  Once he 
tolerated a diet of clear liquids, he was started on mechanical 
soft diet.  He also tolerated this diet.  He was then discharged 
to home with oral pain medication, an appointment to follow up 
with Dr. ___ in clinic, and instructions to avoid carbonated 
beverages and to keep a soft diet for the near future, and 
advance as tolerated.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. alosetron 1 mg oral DAILY 
2. Amitriptyline 50 mg PO QHS 
3. ClonazePAM 1 mg PO QHS:PRN anxiety, insomnia 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*20 Capsule Refills:*0 
3.  Ondansetron 4 mg PO Q8H:PRN nausea 
RX *ondansetron 4 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*15 Tablet Refills:*0 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ___ tablet(s) by mouth every six (6) hours 
Disp #*26 Tablet Refills:*0 
5.  Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 20 mg 1 tablet(s) by mouth once a day Disp #*21 
Tablet Refills:*0 
6.  alosetron 1 mg oral DAILY  
7.  Amitriptyline 50 mg PO QHS  
8.  ClonazePAM 1 mg PO QHS:PRN anxiety, insomnia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
gastroesophageal reflux disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure taking care of you here at ___ 
___. You were admitted to our hospital for 
laparoscopic Nissen fundoplication on ___ without 
complications. You tolerated the procedure well and are 
ambulating, tolerating a soft regular diet, and your pain is 
moderately controlled by pain medications by mouth. You are now 
ready to be discharged to home. Please follow the 
recommendations below to ensure a speedy and uneventful 
recovery. 

ACTIVITY:
- Do not drive until you have stopped taking pain medicine and 
feel you could respond in an emergency.
- You may climb stairs. You should continue to walk several 
times a day. 
- You may go outside, but avoid traveling long distances until 
you see your surgeon at your next visit. 
- You may start some light exercise when you feel comfortable.
- Heavy exercise may be started after 6 weeks, but use common 
sense and go slowly at first. 
- No heavy lifting until cleared by your surgeon. 
- You may resume sexual activity unless your doctor has told you 
otherwise.

HOW YOU MAY FEEL: 
- You may feel weak or "washed out" for 6 weeks. You might want 
to nap often. Simple tasks may exhaust you.
- You may have a sore throat because of a tube that was in your 
throat during the surgery.

YOUR BOWELS:
- Constipation is a common side effect of narcotic pain medicine 
such as oxycodone. If needed, you may take a stool softener 
(such as Colace, one capsule) or gentle laxative (such as milk 
of magnesia, 1 tbs) twice a day. You can get both of these 
medicines without a prescription, but a prescription for Colace 
will be provided.
- If you go 48 hours without a bowel movement, or have pain 
moving the bowels, call your surgeon.
- After some operations, diarrhea can occur. If you get 
diarrhea, don't take anti-diarrhea medicines. Drink plenty of 
fluids and see if it goes away. If it does not go away, or is 
severe and you feel ill, please call your surgeon.

PAIN MANAGEMENT:
- You are being discharged with a prescription for oxycodone for 
pain control. You may take Tylenol as directed, not to exceed 
3000mg in 24 hours. You may take the oxycodone for moderate and 
severe pain not controlled by the Tylenol. 
- Your pain should get better day by day. If you find the pain 
is getting worse instead of better, please contact your surgeon.

If you experience any of the following, please contact your 
surgeon: 
- sharp pain or any severe pain that lasts several hours
- chest pain, pressure, squeezing, or tightness
- cough, shortness of breath, wheezing
- pain that is getting worse over time or pain with fever
- shaking chills, fever of more than 101
- a drastic change in nature or quality of your pain
- nausea and vomiting, inability to tolerate fluids, food, or 
your medications
- if you are getting dehydrated (dry mouth, rapid heart beat, 
feeling dizzy or faint especially while standing)
-any change in your symptoms or any symptoms that concern you

**DIET: you are being discharged on a regular soft diet. Avoid 
carbonated beverages for the foreseeable future.  For the first 
week, we often advise to avoid bread.  Please call the office if 
there are any issues with swallowing/eating.

 
Followup Instructions:
___